US07037932B2
2-Fluoro-7-methoxy-1-benzothiophene
A solution of 1-benzothien-7-yl methyl ether (230 mg, 1.40 mmol) in dry THF (5 mL) was added dropwise to a freshly prepared solution of 2,2,6,6 tetramethyl-lithio-piperidine (1.68 mmol) in THF (10 mL) at −78° C. The resulting solution was stirred at this temperature for 30 mins before perchloryl fluoride gas was condensed into the reaction. After the strong exotherm had stopped the mixture was allowed to stir at −78° C. for a further 30 mins. After this time the reaction was quenched with NH4Cl (sat, 20 mL) and diluted with diethyl ether. The organic phase was dried (MgSO4) and the solvent removed in vacuo. The residue was purified by flash chromatography eluting silica gel with hexane to yield a colourless oil (128 mg, 50%); δH (300 MHz, CDCl3) 7.32–7.20 (2H, m, Ar), 6.80–6.62 (2H, m, Ar), 3.95 (3H, s, OCH3).

reactant | 1-benzothien-7-yl methyl ether | 1.40 mmol, 230 mg | COC1=CC=CC=2C=CSC21 | C9H8OS
reactant | 2,2,6,6 tetramethyl-lithio-piperidine | 1.68 mmol | CC1(N(C(CCC1)(C)C)[Li])C
reactant | perchloryl fluoride | Cl(=O)(=O)(=O)F | ClFO3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-Fluoro-7-methoxy-1-benzothiophene | 128 mg, 50% | FC=1SC2=C(C1)C=CC=C2OC | C9H7FOS
